US07579368B2
Ethyl 5-dimethylsulfamoyl-2-ethoxy-4-fluoro-benzoate (1.02 g, 3.20 mmol) was taken up in 5 mL of anhydrous dimethylformamide. Dimethylamine (8.0 mL, 15.9 mmol) was added and the reaction mixture was heated at 50° C. for 16 h. The reaction was allowed to cool to room temperature and diluted with water. The product was extracted three times with methylene chloride. The combined organics extracts were washed with brine, dried over magnesium sulfate and concentrated to give ethyl 4-dimethylamino-5-dimethylsulfamoyl-2-ethoxy-benzoate as a tan solid (1.05 g, 95%). LC-MS: 345.3 [(M+H)+].

reactant | Ethyl 5-dimethylsulfamoyl-2-ethoxy-4-fluoro-benzoate | 3.20 mmol, 1.02 g | CN(S(=O)(=O)C=1C(=CC(=C(C(=O)OCC)C1)OCC)F)C | C13H18FNO5S
reactant | Dimethylamine | 15.9 mmol, 8.0 mL | CNC | C2H7N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-dimethylamino-5-dimethylsulfamoyl-2-ethoxy-benzoate | 1.05 g, 95% | CN(C1=CC(=C(C(=O)OCC)C=C1S(N(C)C)(=O)=O)OCC)C | C15H24N2O5S
